US06255305B1
a) (1-Propyl-1H-1,2,4-triazol-3-yl)methanol
To a solution of 3-(tert-butyldimethylsilanyloxymethyl)-1-propyl-1H-1,2,4-triazole (from Example 74, Step a) (2.97 g, 11.6 mmol) in ethanol (13 ml) and methanol (26 ml) was added 4 M aqueous NaOH (4.3 ml, 17.4 mmol) and the mixture was stirred at 45° C. for 2 days. The solvents were removed in vacuo and the residue was purified by flash chromatography (silica gel, EtOAc, then 10% MeOH/CH2Cl2) to leave 1.509 g (92%) of the title compound as a white solid: 1H NMR (250 MHz, CDCl3) δ 0.94 (3H, t, J=7.4 Hz), 1.92 (2H, sextet, J=7.4 Hz), 4.10 (2H, t, J=7.1 Hz), 4.76 (2H, s), 8.01 (1H, s).

reactant | 3-(tert-butyldimethylsilanyloxymethyl)-1-propyl-1H-1,2,4-triazole | [Si](C)(C)(C(C)(C)C)OCC1=NN(C=N1)CCC | C12H25N3OSi
reactant | methanol | 26 ml | CO | CH4O
reactant | NaOH | 17.4 mmol, 4 M, 4.3 ml | [OH-].[Na+]
solvent | ethanol | 13 ml | C(C)O | C2H6O
product | (1-Propyl-1H-1,2,4-triazol-3-yl)methanol | 1.509 g, 92% | C(CC)N1N=C(N=C1)CO | C6H11N3O
